US07425634B2
(5c) (8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methanol
To a THF (10 ml) and methanol (5 ml) solution of the (8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methyl benzoate (1.92 g, 6.52 mmol) obtained in the step (5b), a 1N aqueous sodium hydroxide solution (10 ml, 10 mmol) was added and stirred at room temperature for one hour. The reaction mixture was extracted with dichloromethane (50 ml) four times, dried over anhydrous sodium sulfate, and then, concentrated. The obtained crude product was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate=1/1-0/1 gradient) and desired fractions were concentrated to obtain the title compound (1.12 g, 90.0% yield) as a white solid.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | (8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methyl benzoate | 6.52 mmol, 1.92 g | C(C1=CC=CC=C1)(=O)OCC1(OCC2(OCCO2)CO1)C | C15H18O6
reactant | sodium hydroxide | 10 mmol, 1N, 10 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methanol | 1.12 g, 90.0% yield | CC1(OCC2(OCCO2)CO1)CO | C8H14O5
